US07608715B2
Step B: 6-(2-hydroxy-ethoxy)-2-p-tolyl-benzo[de]isoquinoline-1,3-dione.
A mixture of 6-bromo-2-p-tolyl-benzo [de] isoquinoline-1, 3-dione (4.0 g), sodium hydroxide (0.65 g), and 1,2-ethylene glycol (50 ml) was maintained under reflux with stirring at 120° C. for 10 hrs. The reaction mixture was then cooled to room temperature and water (100 ml) was added to the mixture. The solid that separated out was filtered, washed with water, and dried at 100° C. for 8 hours (Yield=2.71 g). The crude product was purified using 120 ml monochlorobenzene and 0.25 g activated charcoal to obtain pure product weighing 1.32 g. H1-NMR: 2.39 δ (s, 3 protons); 3.92 δ (m, 2 proton); 4.35 δ (t, 2 protons); 5.13 δ (t, 1 proton); 7.22 δ (m, 2 protons); 7.31 δ (m, 3 protons); 7.83 δ (t, 1 proton); 8.44δ (m, 2 protons); 8.68 δ (d, 1 proton).

reactant | 6-bromo-2-p-tolyl-benzo [de] isoquinoline-1, 3-dione | 4.0 g | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2=CC=C(C=C2)C)=O | C19H12BrNO2
reactant | sodium hydroxide | 0.65 g | [OH-].[Na+]
reactant | 1,2-ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 6-(2-hydroxy-ethoxy)-2-p-tolyl-benzo[de]isoquinoline-1,3-dione | OCCOC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2=CC=C(C=C2)C)=O | C21H17NO4
